US07498440B2
3-bromopropyl 2-methylphenyl ether
To a solution of 2-methylphenol (0.0954 g, 0.924 mmol) in acetonitrile (4 mL) was added 1,3-dibromopropane (1.00 mL, 9.85 mmol) followed by Cs2CO3 (0.469 g, 1.44 mmol). The reaction mixture was stirred for 24 h and then concentrated under vacuum. The resulting residue was treated with H2O (4 mL) and extracted with DCM (8 mL). The organic layer was dried through a phase separator and concentrated under vacuum. The residue was taken up in DMSO and purified by preparatory HPLC (without TFA) to give the title compound (0.0934 g, 44.1%). EI-MS Rt (2.45 min).

reactant | 2-methylphenol | 0.924 mmol, 0.0954 g | CC1=C(C=CC=C1)O | C7H8O
reactant | 1,3-dibromopropane | 9.85 mmol, 1.00 mL | BrCCCBr | C3H6Br2
reactant | Cs2CO3 | 1.44 mmol, 0.469 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 3-bromopropyl 2-methylphenyl ether | 0.0934 g, 44.1% | CC1=C(C=CC=C1)OCCCBr | C10H13BrO
